US05175157
3-[(N-(2-(3,4-Dimethoxy-phenyl)-ethyl)-piperidin-3-yl)methyl]-7,8-dimethoxy-1,3,4, 5-tetrahydro-2H-3-benzazepin-2-one hydrobromide
3.7 g (0.0067 mol) of 3-[(N-(2-(3,4-dimethoxy-phenyl)ethyl)-pyridinium-3-yl)-methyl]7, 8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one-bromide are hydrogenated in 70 ml of methanol in the presence of 0.7 g of platinum dioxide for 3 hours at ambient temperature and under 5 bar. The catalyst is removed by suction filtering, the methanol is distilled off in vacuo and the residue is dissolved in a little methanol and mixed with acetone. The precipitate is suction filtered and dried.

reactant | 3-[(N-(2-(3,4-dimethoxy-phenyl)ethyl)-pyridinium-3-yl)-methyl]7, 8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one-bromide | 0.0067 mol, 3.7 g | [Br-].COC=1C=C(C=CC1OC)CC[N+]1=CC(=CC=C1)CN1C=CC2=C(CC1=O)C=C(C(=C2)OC)OC
solvent | methanol | 70 ml | CO | CH4O
catalyst | platinum dioxide | 0.7 g | [Pt](=O)=O
product | 3-[(N-(2-(3,4-Dimethoxy-phenyl)-ethyl)-piperidin-3-yl)methyl]-7,8-dimethoxy-1,3,4, 5-tetrahydro-2H-3-benzazepin-2-one hydrobromide | Br.COC=1C=C(C=CC1OC)CCN1CC(CCC1)CN1CCC2=C(CC1=O)C=C(C(=C2)OC)OC | InChI=1S/C28H38N2O5.BrH/c1-32-24-8-7-20(14-25(24)33-2)9-12-29-11-5-6-21(18-29)19-30-13-10-22-15-26(34-3)27(35-4)16-23(22)17-28(30)31;/h7-8,14-16,21H,5-6,9-13,17-19H2,1-4H3;1H
